US06936602B1
In toluene (4.8 ml)/2-methyl-2-propanol (0.48 ml) was dissolved tert-butyl 4-[4-bromo(2-ethoxyethyl)-2-formylanilino]butyrate (2.4 g). To the solution was added potassium tert-butoxide. (72 mg), the mixture was stirred at 100° C. for 1 hour and cooled to room temperature. The reaction solution was added to water, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=6/1) to give tert-butyl 7-bromo-1-(2-ethoxyethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.15 g).

reactant | tert-butyl 4-[4-bromo(2-ethoxyethyl)-2-formylanilino]butyrate | 2.4 g | BrC1=CC(=C(N(CCCC(=O)OC(C)(C)C)CCOCC)C=C1)C=O | C19H28BrNO4
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | toluene | 4.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | 2-methyl-2-propanol | 0.48 ml | CC(C)(C)O | C4H10O
product | tert-butyl 7-bromo-1-(2-ethoxyethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.15 g | BrC=1C=CC2=C(C=C(CCN2CCOCC)C(=O)OC(C)(C)C)C1 | C19H26BrNO3
